US07323491B2
4-[2-(5-Methyl-2-phenylpyrrol-1-yl)ethoxy]benzaldehyde (Compound No. 65)
To a suspension of potassium carbonate (16.43 g) in dimethyl formamide (50 mL), 4-hydroxy benzaldehyde (4.37 g) was added and warmed to 90° C. to 95° C. To the solution, methyl 1-[5-methyl phenyl-1H-pyrrol-1yl]ethane sulfonate (10 g) (compound no. 41) dissolved in dimethyl formamide (50 mL) was added within 30 min and the reaction was continued for further 4 hours. The reaction mixture was diluted with water (100 mL) and was extracted with ethyl acetate (3×100 mL), washed with water (3×100 mL), brine (200 mL), and was dried over sodium sulfate. The solvent was evaporated under reduced pressure, to yield the title compound.

reactant | potassium carbonate | 16.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-hydroxy benzaldehyde | 4.37 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | methyl 1-[5-methyl phenyl-1H-pyrrol-1yl]ethane sulfonate | 10 g | CC=1C=CC=C(C1)C=1N(C=CC1)C(C)S(=O)(=O)OC | C14H17NO3S
solvent | dimethyl formamide | 50 mL | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | 4-[2-(5-Methyl-2-phenylpyrrol-1-yl)ethoxy]benzaldehyde | CC1=CC=C(N1CCOC1=CC=C(C=O)C=C1)C1=CC=CC=C1 | C20H19NO2
